US08071581B2
To a microwave vial was added 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (100 mg, 0.28 mmol, 1 equiv), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole (113 mg, 0.35 mmol, 1.25 equiv), K2CO3 (78 mg, 0.566 mmol, 2.0 equiv) followed by 1,4-dioxane (3 mL) and water (1.5 mL). [0542] The solution was degassed with nitrogen for 10 min and then dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (10 mg, 0.014 mmol, 0.05 equiv) was added. The microwave vessel was capped and heated in a microwave reactor at 130° C. for 30 min. The mixture was cooled and portioned between dichloromethane and water. The organic phase was absorbed onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-80:20) to give 6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-4-yl]-quinoline (106 mg, 80% yield). The solid was then added to a 20% solution of ethylene diamine in dimethylformamide and stirred for 3 hours. The solvent was removed and the residue triterated with ethanol to afford the title compound (65 mg, 85% yield). Analytical data presented in Table 2.

reactant | 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.28 mmol, 100 mg, 1 equiv | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C16H12BrN5
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole | 0.35 mmol, 113 mg, 1.25 equiv | CC1(OB(OC1(C)C)C=1C=NN(C1)COCC[Si](C)(C)C)C | C15H29BN2O3Si
reactant | K2CO3 | 0.566 mmol, 78 mg, 2.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.014 mmol, 10 mg, 0.05 equiv | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 1.5 mL | O | H2O
product | 6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-4-yl]-quinoline | 106 mg, 80% yield | CC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)COCC[Si](C)(C)C | C25H29N7OSi
